US05453424
(18) 3-(2-Bromoacetamido)-2-pivaloylfuran
The 3-amino-2-pivaloylfuran (1.33 g, 8.0 mmol) was dissolved in methylene chloride (15 ml) under nitrogen and the solution was cooled to 0° C. Triethylamine (1.34 ml, 9.6 mmol) was added followed by 2-bromoacetyl bromide (1.94 g, 9.6 mmol) added dropwise over 1/4 hour. The mixture was stirred at ambient temperature over night. The reaction was diluted with ethyl acetate (25 ml) and saturated NaCl (10 ml). The organic layer was separated, washed with saturated NaCl, dried over Na2SO4, filtered and concentrated in vacuo. A brown oil (2.18 g) was obtained in theoretical yield.

reactant | 3-amino-2-pivaloylfuran | 8.0 mmol, 1.33 g | NC1=C(OC=C1)C(C(C)(C)C)=O | C9H13NO2
reactant | Triethylamine | 9.6 mmol, 1.34 ml | C(C)N(CC)CC | C6H15N
reactant | 2-bromoacetyl bromide | 9.6 mmol, 1.94 g | BrCC(=O)Br | C2H2Br2O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
solvent | NaCl | 10 ml | [Na+].[Cl-]
product | 3-(2-Bromoacetamido)-2-pivaloylfuran | 2.18 g | BrCC(=O)NC1=C(OC=C1)C(C(C)(C)C)=O | C11H14BrNO3
